US05468877
Preparation of 3-(p-Chlorophenyl)-2-[(trifluoromethyl)thio]pyrrole
A solution of ethyl 4-(p-chlorophenyl)-5-[(trifluoromethyl)thio]pyrrole-3-carboxylate (8.0 g, 0.023 mol) in 10% aqeuous sodium hydroxide solution is refluxed for several hours, stirred at room temperature overnight, poured into ice-water, treated with concentrated hydrochloric acid and extracted with ether. The combined organic extracts are washed with water and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to obtain a brown semi-solid. A solution of the semi-solid (6.9 g) in ethanolamine is heated at 110° C. for several hours, poured into ice-water and extracted with chloroform. The combined organic extracts are washed with water and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to give a brown oil. The oil is dissolved in methylene chloride, filtered through a bed of silica gel and the filtrate is concentrated in vacuo to obtain the title product as a grey semi-solid (4.8 g, mp 44°-46° C.) which is identified by 1HNMR spectral analysis.

reactant | ethyl 4-(p-chlorophenyl)-5-[(trifluoromethyl)thio]pyrrole-3-carboxylate | 0.023 mol, 8.0 g | ClC1=CC=C(C=C1)C=1C(=CNC1SC(F)(F)F)C(=O)OCC | C14H11ClF3NO2S
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | [OH-].[Na+]
solvent | ethanolamine | C(O)CN | C2H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-(p-Chlorophenyl)-2-[(trifluoromethyl)thio]pyrrole | 4.8 g | ClC1=CC=C(C=C1)C1=C(NC=C1)SC(F)(F)F | C11H7ClF3NS
